US04282361
Preparation of 7-Chloro-3-Methylpyrazolo[4,3-d]Pyrimidine
A mixture of 3-methyl-7-hydroxypyrazolo[4,3-d]pyrimidine (1.0 g, 6.6 mmol), N,N-diethylaniline (2.0 g) and phosphorous oxychloride (16.5 g) was heated with magnetic stirring in an oil bath. The temperature was raised from 55° to 78° over the course of 40 min. At this point, all of the starting material had dissolved and the solution had turned red. The excess POCl3 was distilled off in vacuo (this procedure took 15 min.) and ice-water (50 ml) was added to the residue. The resulting red solution was saturated with sodium chloride (12 g) whereupon it turned yellow. The solution was extracted with ethyl acetate (4×40 ml) and the combined extract was filtered through alumina (5 g; 80-325 mesh), washed with brine (40 ml), dried (Na2SO4) and evaporated, yielding 0.83 g (74%) of eggshell colored crystals.

reactant | 3-methyl-7-hydroxypyrazolo[4,3-d]pyrimidine | 6.6 mmol, 1.0 g | CC1=NNC2=C1N=CN=C2O | C6H6N4O
reactant | N,N-diethylaniline | 2.0 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorous oxychloride | 16.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-3-Methylpyrazolo[4,3-d]Pyrimidine | ClC=1C2=C(N=CN1)C(=NN2)C | C6H5ClN4
